US07572922B2
1-bromo-4-ethynyl benzene
To a solution of zinc bromide (9.0 g, 40 mmol) in anhydrous THF (100 mL) at room temperature under a nitrogen atmosphere was added a solution of ethynyl magnesium bromide (0.5 M in THF, 60 mL, 30 mmol). After 5 minutes 4-bromo-iodobenzene was added (5.64 g, 20 mmol) followed by tetrakis triphenyl phosphine palladium (0) (1.15 g, 1.0 mmol). The reaction was stirred at room temperature for 18 hours. The reaction mixture was poured into brine and extracted with ether (4×100 mL). The ether layer was washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography with hexanes to give the title compound as a yellow solid. 1H NMR (CDCl3, 500 MHz): δ 7.51(d, J=8.5 Hz, 2H), 7.4(d, J=8.5 Hz, 1H), 3.16(s, 1H).

reactant | ethynyl magnesium bromide | 30 mmol, 0.5 M, 60 mL | C(#C)[Mg]Br
reactant | 4-bromo-iodobenzene | BrC1=CC=C(C=C1)I | C6H4BrI
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
catalyst | zinc bromide | 40 mmol, 9.0 g | [Br-].[Zn+2].[Br-]
product | 1-bromo-4-ethynyl benzene | BrC1=CC=C(C=C1)C#C | C8H5Br
